US07482484B2
Step a: Ethyl3-(3-bromo-4-methoxyphenyl)propanoate
87.5 g of bromine are added dropwise at 25° C. over 3 hours to a solution of ethyl3-(4-methoxyphenyl)propanoate (113.9 g; 0.545 mol) in 900 ml of chloroform. The mixture is poured into water and the organic phase is separated out by settling of the phases and washed with 10% sodium hydrosulfite solution. After drying and evaporating off the solvents, a yellow oil is collected (154 g; 98%).

reactant | bromine | 87.5 g | BrBr | Br2
reactant | ethyl3-(4-methoxyphenyl)propanoate | 0.545 mol, 113.9 g | C(C)OC(CCC1=CC=C(C=C1)OC)=O | C12H16O3
reactant | water | O | H2O
solvent | chloroform | 900 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl3-(3-bromo-4-methoxyphenyl)propanoate | C(C)OC(CCC1=CC(=C(C=C1)OC)Br)=O | C12H15BrO3
